US08134001B2
In a manner similar to the method described in Example 2, racemic(2′R, 3R, 4′S)-6-chloro-4′-(3-chlorophenyl)-2′-{2-[4-(2-hydroxy-ethoxy)-phenoxy]-5-iodo-phenyl}spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (0.9 g, 1.26 mmol) was reacted with trimethylsilyl acetylene (0.25 g, 2.5 mmol), CuI (0.48 g, 2.5 mmol), triethylamine (0.25 g, 2.5 mmol) and dichlorobis(triphenylphosphine) palladium(0) (0.18 g, 0.025 mmol) in tetrahydrofuran, then treated with aqueous NaOH solution in methanol to give racemic(2′R, 3R, 4′S)-6-chloro-4′-(3-chlorophenyl)-2′-{5-ethynyl-2-[4-(2-ethoxy)-phenoxy]-phenyl}spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione as an off white solid (Yield 0.58 g, 75%).

reactant | 6-chloro-4′-(3-chlorophenyl)-2′-{2-[4-(2-hydroxy-ethoxy)-phenoxy]-5-iodo-phenyl}spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 1.26 mmol, 0.9 g | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C1=C(C=CC(=C1)I)OC1=CC=C(C=C1)OCCO)=O | C32H25Cl2IN2O5
reactant | trimethylsilyl acetylene | 2.5 mmol, 0.25 g | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 2.5 mmol, 0.25 g | C(C)N(CC)CC | C6H15N
reactant | NaOH | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
catalyst | CuI | 2.5 mmol, 0.48 g | [Cu]I
product | 6-chloro-4′-(3-chlorophenyl)-2′-{5-ethynyl-2-[4-(2-ethoxy)-phenoxy]-phenyl}spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C1=C(C=CC(=C1)C#C)OC1=CC=C(C=C1)OCC)=O | C34H26Cl2N2O4
